US03969391
A solution of 15.5 parts by volume of a 1.83 M sodium dihydro bis(2-methoxyethoxy)aluminate in benzene solution in 87 parts of toluene and a solution of 6.92 parts of methyl 2-methoxy-4-hydroxy-5-oxocyclopent-1-eneheptanoate in 176 parts of toluene are simultaneously added, dropwise, to 87 parts of dry toluene which has been cooled to -70°. The addition takes place at a rate such that the temperature does not go above -60° and at a rate such that the sodium dihydro bis(2-methoxyethoxy)aluminate is added slightly faster that the diester. The addition takes place over a period of about 15 minutes and the reaction then is allowed to stir at -70° for 31/2 hours. After that time, the temperature is allowed to rise to 0° and the reaction mixture is stirred at that temperature for 15 additional minutes. Then 4 parts of methanol in 8.7 parts of toluene is added, followed by the addition of 150 parts by volume of 1 N aqueous hydrochloric acid. The aqueous and organic layers which form are separated and the organic layer is washed successively with aqueous potassium bicarbonate and water and dried over anhydrous sodium sulfate. The solvent is stripped under reduced pressure to afford methyl 3-hydroxy-5-oxocyclopent-1-eneheptanoate. That crude product is then dissolved in 222 parts of tetrahydrofuran and treated with 30 parts by volume of a 1 N aqueous hydrochloric acid solution. The total mixture is allowed to stand at about 4° for about 16 hours and then the tetrahydrofuran is removed under reduced pressure. The remaining material is diluted with ethyl acetate, and the organic layer is washed with potassium bicarbonate and water and dried over anhydrous sodium sulfate. The solvent is removed under reduced pressure and the crude material which remains is crystallized from ethyl ether to afford pure methyl 3-hydroxy-5-oxocyclopent-1-eneheptanoate, melting at about 50°-51°.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | methyl 2-methoxy-4-hydroxy-5-oxocyclopent-1-eneheptanoate | COC1=C(C(C(C1)O)=O)CCCCCCC(=O)OC | C14H22O5
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl 3-hydroxy-5-oxocyclopent-1-eneheptanoate | OC1C=C(C(C1)=O)CCCCCCC(=O)OC | C13H20O4
